US07635423B2
Into an oven-dried, three-neck round bottom flask, fitted with a thermometer, 1.0 g (4.52 mmol; Aldrich, Milwaukee, Wis.) of 2,6-dichloro-3-hydroxy-4-methoxybenzaldehyde and 45 mL of dichloromethane were added under nitrogen atmosphere. The solution was cooled to −65° C. and 1.32 mL (14 mmol) of boron tribromide was added dropwise. The reaction mixture was left to warm up slowly to room temperature with stirring for 16 hours. The reaction mixture was carefully quenched with the addition of 5 mL of water, then transferred to a single-neck round bottom flask and volatiles were removed in vacuo. The residue was taken up with 50 mL of ethylacetate and washed three times with water and two times with brine. The organic layer was dried over MgSO4, then concentrated to yield 0.9 g (96%) of crude 2,6-dichloro-3,4-dihydroxybenzaldehyde, as an off-white solid, which was used without further purification. H-NMR δ (d6-acetone): 6.85 (1H, s), 9.1 (2H, br s), 10.2 (1H, s). Melting point=213-215° C.

reactant | 2,6-dichloro-3-hydroxy-4-methoxybenzaldehyde | 4.52 mmol, 1.0 g | ClC1=C(C=O)C(=CC(=C1O)OC)Cl | C8H6Cl2O3
reactant | boron tribromide | 14 mmol, 1.32 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 2,6-dichloro-3,4-dihydroxybenzaldehyde | 0.9 g, 96% | ClC1=C(C=O)C(=CC(=C1O)O)Cl | C7H4Cl2O3
